US06677368B2
To a solution of 3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (836 mg, 5 mmol) in acetic acid (10 mL) and TFA (5 mL) under nitrogen was added 1-methyl-piperidin-4-one (0.8 mL, 6.67 mmol). The mixture was then heated in a 95° C. oil bath for overnight. The reaction was concentrated, dissolved in ethyl acetate, washed with NaHCO3, brine, dried and concentrated. The residue was purified on a silica gel column to give 1.12 g (85%) of 3,5-dimethyl-4-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrole-2-carboxylic acid ethyl ester.

reactant | 3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 5 mmol, 836 mg | C(C)OC(=O)C=1NC(=CC1C)C | C9H13NO2
reactant | 1-methyl-piperidin-4-one | 6.67 mmol, 0.8 mL | CN1CCC(CC1)=O | C6H11NO
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3,5-dimethyl-4-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrole-2-carboxylic acid ethyl ester | 1.12 g, 85% | C(C)OC(=O)C=1NC(=C(C1C)C=1CCN(CC1)C)C | C15H22N2O2
